US08835420B2
Preparation x43: 1-(6-(3,3-Difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine
To a slurry of 6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (130 mg, 0.524 mmol) in toluene (3.0 mL) at −30° C. was added dropwise methylmagnesium chloride (0.262 mL, 0.786 mmol). The mixture was moved to an ice bath at 0° C. and stirred for 2 hours. The reaction mixture had lots of solid and was about 50% complete by LC/MS. THF (1 mL) was added at 0° C. followed by more methylmagnesium chloride (0.262 mL, 0.786 mmol) and the solution was allowed to sit in a refrigerator at −10° C. for 16 hours. The solution was subsequently warmed to 0° C. and the reaction was quenched with anhydrous methanol (1 mL). A solid formed which dissolved upon stirring. The mixture was added to a solution of sodium borohydride (99 mg, 2.62 mmol) in methanol (5 mL) at 0° C. The resulting mixture was stirred for 30 minutes at 0° C. Excess sodium borohydride was consumed by adding acetic acid (0.300 mL, 5.24 mmol). The solution was allowed to warm to 20° C. and was concentrated in vacuo. The concentrate was taken up in EtOAc (50 mL), washed with saturated aqueous sodium bicarbonate, dried over MgSO4, and concentrated in vacuo to give the title compound, which was used without further purification (84 mg, 60%). ESI-MS m/z [M+H]+ calc'd for C13H16F2N4, 267; found 267.

reactant | 6-(3,3-difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 0.524 mmol, 130 mg | FC1(CN(C1)C=1C=C2C(=NC1C#N)C=CN2C)F | C12H10F2N4
reactant | methylmagnesium chloride | 0.786 mmol, 0.262 mL | C[Mg]Cl
reactant | methylmagnesium chloride | 0.786 mmol, 0.262 mL | C[Mg]Cl
reactant | sodium borohydride | 2.62 mmol, 99 mg | [BH4-].[Na+]
reactant | acetic acid | 5.24 mmol, 0.300 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-(3,3-Difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | FC1(CN(C1)C=1C=C2C(=NC1C(C)N)C=CN2C)F | C13H16F2N4
